US04271164
6-(2,6-Dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine, 10 g, is added to a solution of 10 ml of trifluoroacetic anhydride in 10 ml of trifluoroacetic acid. This mixture is stirred for 18 hours at room temperature. The resulting solution is concentrated to dryness at reduced pressure. The residue is dissolved in chloroform and this solution is washed with aqueous sodium bicarbonate solution until it is neutral. The organic layer is dried over magnesium sulfate, filtered, and concentrated to dryness to yield the crude product. This is purified by successive recrystallizations from acetonitrile, ethyl acetate and toluene to yield 2.0 g of N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-2,2,2-trifluoroacetamide, mp 195°-199° C. (dec.).

reactant | 6-(2,6-Dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-2,2,2-trifluoroacetamide | 2.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1NC(C(F)(F)F)=O | C16H9Cl2F3N4O
